US07994312B2
S-2-Pyridyl 4-ethylbenzothioate (2a).
Following the general procedure,18 a solution of 2-mercaptopyridine (11.1 g, 100 mmol) in THF (100 mL) was treated with 4-ethylbenzoylchloride (16.9 g, 100 mmol). The resulting slurry was stirred for 30 min. The precipitate was collected by filtration and washed with hexanes (150 mL) in a Buchner funnel. The filtered material was added into a biphasic solution of saturated aqueous NaHCO3 (100 mL) and diethyl ether (100 mL). The mixture was stirred until the foaming subsided. The organic layer was removed and the water layer was extracted with diethyl ether. The combined organic extract was dried (Na2SO4), and filtered. The filtrate was concentrated to afford pale yellow solid. The solid was washed with hexanes (˜20 mL) to afford a pale yellow solid (20.9 g, 86%): mp 48-50° C.; 1H NMR δ 1.27 (t, J=7.6 Hz, 3H), 2.73 (q, J=7.6 Hz, 2H), 7.31-7.35 (m, 3H), 7.72-7.74 (m, 1H), 7.77-7.81 (m, 1H), 7.94-7.96 (m, 2H), 8.67-8.69 (m, 1H); 13C NMR δ 15.3, 29.1, 123.7, 127.9, 128.5, 131.0, 134.3, 137.3, 150.5, 151.2, 151.6, 189.0; FAB-MS obsd 244.0812, calcd 244.0796 [(M+H)+, M=C14H13NOS]. Anal. Calcd for C14H13NOS: C, 69.10; H, 5.39; N, 5.76. Found: C, 68.96; H, 5.38; N, 5.70.

reactant | 2-mercaptopyridine | 100 mmol, 11.1 g | SC1=NC=CC=C1 | C5H5NS
reactant | 4-ethylbenzoylchloride | 100 mmol, 16.9 g | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | S-2-Pyridyl 4-ethylbenzothioate | 20.9 g, 86% | C(C)C1=CC=C(C(SC2=NC=CC=C2)=O)C=C1 | C14H13NOS
